US06620839B2
4′-hydroxy-3′-iodo-1,1′-biphenyl-4-carbonitrile
4′-Hydroxy-1,1′-biphenyl-4-carbonitrile (25.0 g, 128 mmol), purchased commercially, NaI (19.19 g, 128 mmol), and sodium hydroxide (5.12g, 128 mmol) were combined in methanol (500 mL) at 0° C. and treated with bleach (5.25%, 181.0 g) dropwise over 1 hour. After stirring at 0° C. for 1 hour, the mixture was treated with 10% aqueous sodium thiosulfate (250 mL). The mixture was adjusted to pH 6.8 with 10% aqueous HCl and then the mixture was filtered. The filter cake was crystallized from hot CH2Cl2/hexane to provide the title compound (40% yield). 1HNMR (300 MHz, CDCl3) δ5.40 (s, 1H), 7.10 (m, 1H), 7.50 (m, 1H), 7.60 (m, 2H), 7.77(m, 2H), 7.90 (m, 1H); MS (CDI) m/z 339 (M+NH4)+.

reactant | 4′-Hydroxy-1,1′-biphenyl-4-carbonitrile | 128 mmol, 25.0 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H9NO
reactant | NaI | 128 mmol, 19.19 g | [Na+].[I-]
reactant | sodium hydroxide | 128 mmol, 5.12g | [OH-].[Na+]
reactant | sodium thiosulfate | 250 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 500 mL | CO | CH4O
product | 4′-hydroxy-3′-iodo-1,1′-biphenyl-4-carbonitrile | 40% yield | OC1=C(C=C(C=C1)C1=CC=C(C=C1)C#N)I | C13H8INO
